US06608070B1
* 2-Bromoacetyl-5-(trifluoromethyl)pyridine was prepared from 2-chloro-5-(trifluoromethyl)pyridine according to the procedure for preparing 2-bromoacetyl-5-methylpyridine described in step 1 of Example 32.

reactant | 2-chloro-5-(trifluoromethyl)pyridine | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | 2-bromoacetyl-5-methylpyridine | BrCC(=O)C1=NC=C(C=C1)C | C8H8BrNO
product | 2-Bromoacetyl-5-(trifluoromethyl)pyridine | BrCC(=O)C1=NC=C(C=C1)C(F)(F)F | C8H5BrF3NO
